US07435815B2
N-Ethyl-2-[(5-isopropyl-pyridine-2-sulfonyl)-p-tolyl-amino]-N-thiazol-2-ylmethyl-acetamide
prepared by reaction of [(5-isopropyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid with ethyl-thiazol-2-ylmethyl-amine

reactant | [(5-isopropyl-pyridine-2-sulfonyl)-p-tolyl-amino]-acetic acid | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C17H20N2O4S
reactant | ethyl-thiazol-2-ylmethyl-amine | C(C)NCC=1SC=CN1 | C6H10N2S
product | N-Ethyl-2-[(5-isopropyl-pyridine-2-sulfonyl)-p-tolyl-amino]-N-thiazol-2-ylmethyl-acetamide | C(C)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C1=NC=C(C=C1)C(C)C)=O)CC=1SC=CN1 | C23H28N4O3S2
